US04975455
STAGE B: ETHYL 4-(HYDROXYMETHYL)BENZOATE
4 g (26.3 mmol) of 4-(hydroxymethyl)benzoic acid in 1,000 ml of absolute ethanol are heated under reflux of the solvent for 15 hours in the presence of approximately 1 g of concentrated sulfuric acid. The ethyl alcohol is then evaporated off and the residue taken up with water. After extraction of the aqueous phase with 3×100 ml of ethyl ether, the organic phases are washed to neutrality with saturated sodium hydrogen carbonate solution. After removal of the solvent, 4.56 g of a yellow oil, which soon crystallizes, remains.

reactant | 4-(hydroxymethyl)benzoic acid | 26.3 mmol, 4 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | sulfuric acid | approximately 1 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 1,000 ml | C(C)O | C2H6O
product | ETHYL 4-(HYDROXYMETHYL)BENZOATE | OCC1=CC=C(C(=O)OCC)C=C1 | C10H12O3
